US08193356B2
To a suspension of 4-hydroxy-3-phenylacetyl-1-(3-trifluoromethoxyphenyl)-1,8-naphthyridin-2(1H)-one (220 mg, 0.50 mmol) produced in Synthesis Example 1 in DMF (4 mL) was added hydrazine monohydrate (purity of 80%, 80 μL), and the mixture was stirred at 100 to 110° C. for 3 hours. To the reaction solution was added water. The resulting precipitate was separated by filtration, washed with water, and dried to give 3-benzyl-5-(3-trifluoromethoxyphenyl)-1H-pyrazolo[4,3-c][1,8]-naphthyridin-4(5H)-one as a form of crystal (204 mg, yield 94%).

reactant | 4-hydroxy-3-phenylacetyl-1-(3-trifluoromethoxyphenyl)-1,8-naphthyridin-2(1H)-one | 0.50 mmol, 220 mg | OC1=C(C(N(C2=NC=CC=C12)C1=CC(=CC=C1)OC(F)(F)F)=O)C(CC1=CC=CC=C1)=O | C23H15F3N2O4
reactant | hydrazine monohydrate | 80 μL | O.NN
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 3-benzyl-5-(3-trifluoromethoxyphenyl)-1H-pyrazolo[4,3-c][1,8]-naphthyridin-4(5H)-one | C(C1=CC=CC=C1)C1=NNC2=C1C(N(C=1N=CC=CC21)C2=CC(=CC=C2)OC(F)(F)F)=O | C23H15F3N4O2
